US06403830B2
(S)-1-[(benzyloxycarbonyl)amino]-2-propanol tosylate
To a solution of the product of Example-3A, (S)-1-[(benzyloxycarbonyl)amino]-2-propanol, (9.74 g, 46.7 mmol) and triethylamine 7.27 g, 72 mmol) in methylene chloride (60 mL) at 0° C. was added toluene sulfonyl chloride (9.15 g, 48 mmol) in methylene chloride (18 mL) slowly, in portions, over a period of 20 min while vigorously stirring under nitrogen. The mixture allowed to warm to room temperature and stirred for a further 36 hours under nitrogen. The organic layer was washed with 1N HCl, water, 5% NaHCO3 solution, water and brine before it was dried over anhydrous MgSO4. Evaporation of all solvent gave a white solid which was passed though a silica plug with ethyl acetate/hexane (1:4) to remove excess toluene sulfonyl chloride and then with ethyl acetate/hexane (1:3) to give the title product as white crystals. This material was recrystallized from ethyl acetate/hexane to give white needles (10.8 g). 1H NMR (CDCl3) δ1.22 (d, 3H,) 2.39 (s, 3H), 3.20 (m, 1H), 3.43 (dd, 1H) ), 4.66 (m, 1H), 5.02 (m, 1H), 5.04 (ABq, 2H), 7.34 (m, 7H), 7.77 (d, 2H). MS m/z (electrospray) 386 [M+23]+ (100%), 320 (66). The product was examined on a Regis Technologies Inc. Perkle Covalent (R,R) β-GEM1 HPLC column using mobile phase of isopropanol/hexane and a gradient of 10% isopropanol for 5 min, then 10 to 40% isopropanol over a period of 25 min, and using both UV and Laser Polarimetry detectors. Retention time major peak: 22.2 min, >98% ee.

reactant | (S)-1-[(benzyloxycarbonyl)amino]-2-propanol | 46.7 mmol, 9.74 g | C(C1=CC=CC=C1)OC(=O)NC[C@H](C)O | C11H15NO3
reactant | triethylamine | 72 mmol, 7.27 g | C(C)N(CC)CC | C6H15N
reactant | toluene sulfonyl chloride | 48 mmol, 9.15 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 18 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-[(benzyloxycarbonyl)amino]-2-propanol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@H](CNC(=O)OCC1=CC=CC=C1)C | C18H21NO5S
